US04820866
1,3-bis-(4-nitrophenoxy)-2,2-dimethylpropane
140 g powdered sodium hydroxide were added in small portions with thorough stirring over a period of 3 hours to a solution of 104 g (1 mol) neopentyl glycol and 346.5 g (2.2 mols) 4-nitrochlorobenzene in 600 ml dimethylsulfoxide (DMSO). An internal temperature of 40°-50° C. was maintained by cooling with ice both during the addition and subsequently until the exothermic reaction abated. The reaction mixture was then stirred for 8 hours at 25° C. The product precipitated was filtered off under suction, washed first with water until neutral and then once with ethylacetate and then dried in vacuo at 90° C.

reactant | sodium hydroxide | 140 g | [OH-].[Na+]
reactant | neopentyl glycol | 1 mol, 104 g | OCC(C)(CO)C | C5H12O2
reactant | 4-nitrochlorobenzene | 2.2 mols, 346.5 g | [N+](=O)([O-])C1=CC=C(C=C1)Cl | C6H4ClNO2
solvent | dimethylsulfoxide | 600 ml | CS(=O)C | C2H6OS
product | 1,3-bis-(4-nitrophenoxy)-2,2-dimethylpropane | [N+](=O)([O-])C1=CC=C(OCC(COC2=CC=C(C=C2)[N+](=O)[O-])(C)C)C=C1 | C17H18N2O6
